US07592365B2
0.23 g (0.834 mmol) of 2-formylamino-4-(4-nitrophenyl)-1H-pyrrole-3-carboxamide is added at a temperature in the region of 25° C. to a suspension of 0.030 g (0.0285 mmol) of 10% palladium on carbon in 15 cm3 of methanol. After hydrogenation for 5 hours in an autoclave under 2 bar of hydrogen, at a temperature in the region of 25° C., the reaction mixture is filtered, the catalyst is rinsed with three times 5 cm3 of methanol and then the filtrate is concentrated to dryness under reduced pressure (2.7 kPa) to give 0.125 g of 2-formylamino-4-(4-aminophenyl)-1H-pyrrole-3-carboxamide, in the form of a green solid. 1H NMR (400 MHz, (CD3)2SO, —δ in ppm) 5.13 (broad s, 2H); 5.43 (broad m, 1H); 6.27 (d, J=2.5 Hz, 1H); 6.60 (d, J=9.0 Hz, 2H); 6.80 (broad m, 1H); 6.99 (d, J=9.0 Hz, 2H); 8.34 (d, J=1.5 Hz, 1H); 10.9 (broad s, 1H); 11.25 (broad s, 1H)

reactant | 2-formylamino-4-(4-nitrophenyl)-1H-pyrrole-3-carboxamide | 0.834 mmol, 0.23 g | C(=O)NC=1NC=C(C1C(=O)N)C1=CC=C(C=C1)[N+](=O)[O-] | C12H10N4O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.0285 mmol, 0.030 g | [Pd] | Pd
solvent | methanol | 15 cm3 | CO | CH4O
product | 2-formylamino-4-(4-aminophenyl)-1H-pyrrole-3-carboxamide | 0.125 g | C(=O)NC=1NC=C(C1C(=O)N)C1=CC=C(C=C1)N | C12H12N4O2
